US06797820B2
To a solution of N-hexanoyl-4-(S)-benzyloxazolidin-2-one (7.3 mmol) in THF at −78° C. was added 1.0 M sodium hexamethyldisilazide (NaHMDS, 8.8 mmol) and the reaction stirred at −78° C. for 1 hr. A solution of methyl bromoacetate (8.8 mmol) in THF was then added dropwise, and the resulting mixture was stirred at −78° C. for 1 hr and then at room temperature overnight. The reaction was quenched with NH4Cl, concentrated, then suspended in ethyl acetate and washed with 0.5 N HCl and brine, dried, and purified by silica gel chromatography (ethyl acetate/hexanes) to afford the methyl 3-(R)-(n-butyl)-3-[4-(S)-benzyloxazolidin-2-one-3-ylcarbonyl)propionate.

reactant | N-hexanoyl-4-(S)-benzyloxazolidin-2-one | 7.3 mmol | C(CCCCC)(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O | C16H21NO3
reactant | sodium hexamethyldisilazide | 8.8 mmol, 1.0 M | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | methyl bromoacetate | 8.8 mmol | BrCC(=O)OC | C3H5BrO2
solvent | THF | C1CCOC1 | C4H8O
product | methyl 3-(R)-(n-butyl)-3-[4-(S)-benzyloxazolidin-2-one-3-ylcarbonyl)propionate | C(CCC)[C@H](CC(=O)OC)C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O | C19H25NO5
